US08859768B2
To a slurry of 2-(2-acetamido-5-methylpyridin-4-yl)-4-iodo-1,3-oxazole-5-carboxamide (12.0 g, 31.0 mmol) in toluene (240 mL) was added DMF-DMA (24.0 mL, 187 mmol). The reaction mixture was allowed to stir at 90° C. for 5 h and then concentrated. The residue was suspended in AcOH (120 mL) and hydrazine hydrate (4.8 mL, 155 mmol) was added slowly. The reaction mixture was allowed to stir at rt overnight and then diluted with water. The slurry was filtered and the solid was collected, washed with water, and dried to give N-{4-[4-iodo-5-(1H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide (12.5 g, 95%).

reactant | 2-(2-acetamido-5-methylpyridin-4-yl)-4-iodo-1,3-oxazole-5-carboxamide | 31.0 mmol, 12.0 g | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)I)C(=O)N)C | C12H11IN4O3
reactant | DMF-DMA | 187 mmol, 24.0 mL | CN(C)C(OC)OC | C5H13NO2
reactant | hydrazine hydrate | 155 mmol, 4.8 mL | O.NN
solvent | toluene | 240 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-{4-[4-iodo-5-(1H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide | 12.5 g, 95% | IC=1N=C(OC1C1=NNC=N1)C1=CC(=NC=C1C)NC(C)=O | C13H11IN6O2
